US05618839
2-Fluoro-4-nitrobenzoic acid ethyl ester
To a solution of 2-fluoro-4-nitrobenzoic acid (1.15 g, 6.22 mmol) in absolute ethyl alcohol (20 mL) was added p-toluenesulfonic acid monohydrate (100 mg). After 16 h at reflux, the reaction mixture was concentrated in vacuo and the residue chromatographed on silica gel (eluted with 5% ethyl acetate in hexane) to give 770 mg (Y: 58%) of the title product; 1H-NMR (CDCl3): δ8.16-8.00 (m, 3H), 4.45 (q, J=7.1 Hz, 2H), 1.43 (t, J=7.1 Hz, 3H). MS (DCI) m/e: 214 (MH+).

reactant | 2-fluoro-4-nitrobenzoic acid | 6.22 mmol, 1.15 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethyl alcohol | 20 mL | C(C)O | C2H6O
product | 2-Fluoro-4-nitrobenzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C9H8FNO4
